plaintext
* NMOS transistor with drain at node 3, gate at node 1 (Vin), source at node 4 (ground)
M1 3 1 4 4 NMOS 

* Resistor RD connected between nodes 3 and 5
RD 3 5 1k

* Voltage source VDD with positive terminal at node 5 and negative terminal at ground
VDD 5 0 DC 5V

* Input voltage source Vin connected to node 1
Vin 1 0 DC 1V

* Ground
VSS 0 4 0

.model NMOS nmos

.end